US05212173
19 g of N-[2-((1R,3R,4S)-1-methyl-4-isopropylcyclohex-3-yloxy)ethyl]-N-(2-hydro xyethyl)-N-methylamine were dissolved in 200 ml of dichloromethane. 17.6 g of thionyl chloride were then added dropwise to the solution with ice-cooling. Two drops of dimethylformamide were then added as a catalyst, and the solution was heated under reflux for 3 hours. The reaction mixture was worked up by adding toluene and then evaporating the solution, after which fresh toluene was added to the residue and evaporated two more times. The remaining residue was then dissolved in dichloromethane, and ether was added dropwise to the solution to precipitate the reaction product. The resulting precipitate was filtered out and dried. 22.5 g of N-[2-((1R,3R,4S)-1-methyl-4-isopropylcyclohex-3-yloxy)ethyl]-N-(2-chloroethyl)-N-methylamine hydrochloride having a melting point of 184° C.-194° C. were obtained.

reactant | N-[2-((1R,3R,4S)-1-methyl-4-isopropylcyclohex-3-yloxy)ethyl]-N-(2-hydro xyethyl)-N-methylamine | 19 g | C[C@H]1C[C@H]([C@@H](CC1)C(C)C)OCCN(C)CCO | C15H31NO2
reactant | thionyl chloride | 17.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | Two drops | CN(C=O)C | C3H7NO
product | N-[2-((1R,3R,4S)-1-methyl-4-isopropylcyclohex-3-yloxy)ethyl]-N-(2-chloroethyl)-N-methylamine hydrochloride | 22.5 g | Cl.C[C@H]1C[C@H]([C@@H](CC1)C(C)C)OCCN(C)CCCl | InChI=1S/C15H30ClNO.ClH/c1-12(2)14-6-5-13(3)11-15(14)18-10-9-17(4)8-7-16;/h12-15H,5-11H2,1-4H3;1H/t13-,14+,15-;/m1./s1
